US04093732
D. [5-[(2,2-Dichlorocyclopropylmethyl)sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester
To a solution of 3.4 g of [5-[(2,2-dichlorocyclopropylmethyl)thio]-1H-benzimidazol-2-yl]carbamic acid, methyl ester in 50 ml of CHCl3 and 50 ml of HOAc at -20° C there is added 2.1 g m-chloroperbenzoic acid in 20 ml of CHCl3. The mixture is allowed to reach room temperature and then is stirred for 4 hours. CHCl3 is removed in vacuo and the solution is neutralized with NaOH. The resulting oil solid is filtered and crystallized from glyme-ethyl ether to give the title compound.

reactant | [5-[(2,2-dichlorocyclopropylmethyl)thio]-1H-benzimidazol-2-yl]carbamic acid, methyl ester | 3.4 g | ClC1(C(C1)CSC1=CC2=C(NC(=N2)NC(OC)=O)C=C1)Cl | C13H13Cl2N3O2S
reactant | m-chloroperbenzoic acid | 2.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | HOAc | 50 ml | CC(=O)O | C2H4O2
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | [5-[(2,2-Dichlorocyclopropylmethyl)sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester | ClC1(C(C1)CS(=O)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)Cl | C13H13Cl2N3O3S
